US05610293
E. Synthesis of 2-Cyclohexyl-1,4,7,10,13-pentaazacyclopentadecane
5-Cyclohexyl-1,10,13-tris(p-toluenesulfonyl)-1,4,7,10,13-pentaazacyclopentadecan-3,8-dione prepared as in Example 30D (4.841 g, 6.386 mmol) was placed in a 2-necked flask under argon. Dry 1,2-dimethoxyethane (dme, 100 ml) was added, giving a suspension. After placing the reaction flask in a cold water bath, lithium aluminum hydride in dme (0.5M, 100 ml, 50 mmol) was added over a 10 min period giving an almost clear solution. Additional dme (50 ml) was added and the flask was removed from the water bath and heating with a mantle was started. After a few minutes of heating, more lithium aluminum hydride solution (40 ml, 20 mmol) was added, and heating to reflux was continued. The solution quickly became yellow and opaque. Overnight the refluxed solution became mostly white and heterogeneous. After 39.5 h, the reaction mixture appeared milky with a slight tint of yellow. Heating was stopped and the reaction mixture was cooled to room temperature. It was quenched, after placing the reaction flask in a Water bath, by careful addition of water (2.2 ml) over a 10 min period. The reaction was exothermic with gas evolution. Next, 15% aqueous sodium hydroxide solution (2.2 ml) was rapidly added, then water (6.5 ml). After stirring for 1 h, tetrahydrofuran (135 ml) was added with continued stirring. The mixture was thick with a white precipitate. Fifty min later the mixture was filtered under an inverted funnel through which N2 was flowing, and the filtrate was removed on the rotary evaporator to give a viscous liquid. After pumping on the vacuum line, this residue was recrystallized under argon from acetonitrile with cooling to -20° C. Three successive batches of a slightly sticky white solid were obtained which were combined and recrystallized from hexanes under argon with cooling to -20° C. to give 0.796 g (42% yield): mp 67°-69.5° C. (under nitrogen); 1H NMR (CDCl3) δ 0.84-1.32 (several m, 5 H), 1.40-2.0 (several m, 11 H), 2.28-2.46 (m, 2 H), 2.50-2.97 (several m, 17 H); Exact mass (M+H)+ : calcd, 298.2971; Found, 298.2973 (C16H36N5).

reactant | 5-Cyclohexyl-1,10,13-tris(p-toluenesulfonyl)-1,4,7,10,13-pentaazacyclopentadecan-3,8-dione | C1(CCCCC1)C1NC(CN(CCN(CCN(CC(NC1)=O)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)=O | C37H49N5O8S3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 20 mmol, 40 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dme | 50 ml | COCCOC | C4H10O2
solvent | dme | 50 mmol, 0.5M, 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 2-Cyclohexyl-1,4,7,10,13-pentaazacyclopentadecane | 42% yield | C1(CCCCC1)C1NCCNCCNCCNCCNC1 | C16H35N5
